.option scale=1u
.SUBCKT FA A B C SUM Carry Vdd Gnd
M1000 a_193_65# a_133_78# Vdd Vdd pfet w=6 l=2
+  ad=0 pd=0 as=0 ps=0
M1001 a_255_88# a_193_65# a_255_68# Gnd nfet w=3 l=2
+  ad=0 pd=0 as=0 ps=0
M1002 a_313_58# a_255_88# Gnd Gnd nfet w=3 l=2
+  ad=0 pd=0 as=0 ps=0
M1003 a_75_39# B a_75_19# Gnd nfet w=3 l=2
+  ad=0 pd=0 as=0 ps=0
M1004 a_255_88# C Vdd Vdd pfet w=6 l=2
+  ad=0 pd=0 as=0 ps=0
M1005 a_75_39# a_13_65# Vdd Vdd pfet w=6 l=2
+  ad=0 pd=0 as=0 ps=0
M1006 a_326_19# a_193_65# Vdd Vdd pfet w=6 l=2
+  ad=0 pd=0 as=0 ps=0
M1007 a_13_65# B Vdd Vdd pfet w=6 l=2
+  ad=0 pd=0 as=0 ps=0
M1008 a_75_88# a_13_65# a_75_68# Gnd nfet w=3 l=2
+  ad=0 pd=0 as=0 ps=0
M1009 a_75_88# A Vdd Vdd pfet w=6 l=2
+  ad=0 pd=0 as=0 ps=0
M1010 Carry a_355_18# Gnd Gnd nfet w=4 l=2
+  ad=0 pd=0 as=0 ps=0
M1011 a_133_78# a_75_39# a_133_58# Gnd nfet w=3 l=2
+  ad=0 pd=0 as=0 ps=0
M1012 a_193_45# C Gnd Gnd nfet w=3 l=2
+  ad=0 pd=0 as=0 ps=0
M1013 a_255_39# a_133_78# Vdd Vdd pfet w=6 l=2
+  ad=0 pd=0 as=0 ps=0
M1014 a_133_78# a_75_88# Vdd Vdd pfet w=6 l=2
+  ad=0 pd=0 as=0 ps=0
M1015 a_13_45# A Gnd Gnd nfet w=3 l=2
+  ad=0 pd=0 as=0 ps=0
M1016 a_255_88# a_193_65# Vdd Vdd pfet w=6 l=2
+  ad=0 pd=0 as=0 ps=0
M1017 SUM a_255_39# a_313_58# Gnd nfet w=3 l=2
+  ad=0 pd=0 as=0 ps=0
M1018 a_75_39# B Vdd Vdd pfet w=6 l=2
+  ad=0 pd=0 as=0 ps=0
M1019 SUM a_255_88# Vdd Vdd pfet w=6 l=2
+  ad=0 pd=0 as=0 ps=0
M1020 a_255_19# a_193_65# Gnd Gnd nfet w=3 l=2
+  ad=0 pd=0 as=0 ps=0
M1021 a_75_88# a_13_65# Vdd Vdd pfet w=6 l=2
+  ad=0 pd=0 as=0 ps=0
M1022 a_146_19# a_13_65# Gnd Gnd nfet w=3 l=2
+  ad=0 pd=0 as=0 ps=0
M1023 a_193_65# a_133_78# a_193_45# Gnd nfet w=3 l=2
+  ad=0 pd=0 as=0 ps=0
M1024 a_255_68# C Gnd Gnd nfet w=3 l=2
+  ad=0 pd=0 as=0 ps=0
M1025 a_355_18# a_326_19# a_355_41# Vdd pfet w=6 l=2
+  ad=0 pd=0 as=0 ps=0
M1026 a_355_41# a_146_19# Vdd Vdd pfet w=6 l=2
+  ad=0 pd=0 as=0 ps=0
M1027 a_75_19# a_13_65# Gnd Gnd nfet w=3 l=2
+  ad=0 pd=0 as=0 ps=0
M1028 a_133_78# a_75_39# Vdd Vdd pfet w=6 l=2
+  ad=0 pd=0 as=0 ps=0
M1029 a_193_65# C Vdd Vdd pfet w=6 l=2
+  ad=0 pd=0 as=0 ps=0
M1030 a_326_19# a_193_65# Gnd Gnd nfet w=3 l=2
+  ad=0 pd=0 as=0 ps=0
M1031 a_13_65# B a_13_45# Gnd nfet w=3 l=2
+  ad=0 pd=0 as=0 ps=0
M1032 a_13_65# A Vdd Vdd pfet w=6 l=2
+  ad=0 pd=0 as=0 ps=0
M1033 a_75_68# A Gnd Gnd nfet w=3 l=2
+  ad=0 pd=0 as=0 ps=0
M1034 SUM a_255_39# Vdd Vdd pfet w=6 l=2
+  ad=0 pd=0 as=0 ps=0
M1035 a_255_39# a_133_78# a_255_19# Gnd nfet w=3 l=2
+  ad=0 pd=0 as=0 ps=0
M1036 a_355_18# a_326_19# Gnd Gnd nfet w=3 l=2
+  ad=0 pd=0 as=0 ps=0
M1037 a_133_58# a_75_88# Gnd Gnd nfet w=3 l=2
+  ad=0 pd=0 as=0 ps=0
M1038 a_355_18# a_146_19# Gnd Gnd nfet w=3 l=2
+  ad=0 pd=0 as=0 ps=0
M1039 a_255_39# a_193_65# Vdd Vdd pfet w=6 l=2
+  ad=0 pd=0 as=0 ps=0
M1040 a_146_19# a_13_65# Vdd Vdd pfet w=6 l=2
+  ad=0 pd=0 as=0 ps=0
M1041 Carry a_355_18# Vdd Vdd pfet w=6 l=2
+  ad=0 pd=0 as=0 ps=0
C0 a_326_19# Vdd 2.27fF
C1 Vdd a_193_65# 5.46fF
C2 a_133_78# Vdd 4.02fF
C3 a_255_39# Vdd 2.18fF
C4 B Vdd 2.86fF
C5 a_75_88# Vdd 2.42fF
C6 A Vdd 4.15fF
C7 a_75_39# Vdd 2.18fF
C8 C Vdd 4.15fF
C9 a_255_88# Vdd 2.42fF
C10 a_13_65# Vdd 5.46fF
C11 Carry Gnd 2.54fF
C12 a_355_18# Gnd 12.36fF
C13 a_326_19# Gnd 11.97fF
C14 a_146_19# Gnd 38.72fF
C15 SUM Gnd 4.51fF
C16 a_255_39# Gnd 20.84fF
C17 a_133_78# Gnd 38.14fF
C18 a_75_39# Gnd 20.84fF
C19 Gnd Gnd 79.85fF
C20 B Gnd 30.27fF
C21 a_255_88# Gnd 13.69fF
C22 a_75_88# Gnd 13.69fF
C23 a_193_65# Gnd 44.15fF
C24 C Gnd 24.29fF
C25 a_13_65# Gnd 44.15fF
C26 A Gnd 24.29fF
C27 Vdd Gnd 65.15fF
.ENDS FA